US04981843
A. N-[N-[(1,1-Dimethylethoxy)carbonyl]-L-phenylalanyl]-L-leucine, methyl ester
To a solution containing N-[(1,1-Dimethylethoxy)carbonyl]-L-phenylalanine (19.89 g, 75 mmol) in dry dimethylformamide (375 mL) was added L-leucine, methyl ester, monohydrochloride (13.62 g, 75 mmol) and hydroxybenzotriazole hydrate (11.46 g, 75 mmol). The resulting mixture was cooled to 0° C. under argon and treated with diisopropylethylamine (9.69 g, 13 mL, 75 mmol) followed by 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho-p-toluenesulfonate (33.5 g, 75 mmol). The reaction was allowed to warm to ambient temperature overnight, then concentrated in vacuo to half volume followed by treatment with 800 ml of pH 4 phosphate buffer. A white solid that separated from solution was collected by filtration and dissolved in ethyl acetate (600 mL). The organic solution was rinsed with saturated aqueous sodium hydrogen carbonate, water and brine, then dried over anhydrous magnesium sulfate and concentrated in vacuo to give 24 g of crude product. The entire product was dissolved in hot diisopropyl ether (250 mL) and the resulting solution concentrated to about half volume and refrigerated overnight. By this method, 22.2 g of the title A compound was obtained from the first crop with an additional 1.1 g from the mother liquor, m.p. 105°-106° C.

reactant | N-[(1,1-Dimethylethoxy)carbonyl]-L-phenylalanine | 75 mmol, 19.89 g | CC(C)(OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C14H19NO4
reactant | L-leucine, methyl ester, monohydrochloride | 75 mmol, 13.62 g | Cl.N[C@@H](CC(C)C)C(=O)OC
reactant | hydroxybenzotriazole hydrate | 75 mmol, 11.46 g | O.OC1=CC=CC=2NN=NC21
reactant | diisopropylethylamine | 75 mmol, 13 mL, 9.69 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho-p-toluenesulfonate | 75 mmol, 33.5 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | dimethylformamide | 375 mL | CN(C=O)C | C3H7NO
product | N-[N-[(1,1-Dimethylethoxy)carbonyl]-L-phenylalanyl]-L-leucine, methyl ester | 24 g | CC(C)(OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C | C21H32N2O5
